US06562847B1
Step (c): 3-(3-Piperidinyloxy)-pyridine
To 130 mg of 3-(1-t-butoxycarbonyl-3-piperidinyloxy)-pyridine was added 10 mL of solution containing 5 mL of TFA and 5 mL of CH2Cl2 at ice-bath temperature. The reaction solution was slowly warmed to room temperature and allowed to stir 50 min at room temperature. After 50 min, solvents were removed in vacuo and the crude product was purified by flash chromatography (9:1:0.05, CHCl3:MeOH:conc. NH4OH) to obtain 83 mg (quantitative yield) of a clear oil: 1H NMR (300 MHz, CD3OD) δ8.27 (1H, d, J=2.7 Hz), 8.13 (1H, d, J=4.0 Hz), 7.49-7.34 (2H, m), 4.52 (1H, m), 3.20-2.80 (4H, m), 2.05-1.55 (4H, m); Mass spectrum (ESI) m/z 179.6 (M+H+).

reactant | 3-(1-t-butoxycarbonyl-3-piperidinyloxy)-pyridine | 130 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)OC=1C=NC=CC1 | C15H22N2O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Piperidinyloxy)-pyridine | 83 mg, quantitative yield | N1CC(CCC1)OC=1C=NC=CC1 | C10H14N2O
